data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C)[C:20](=[O:21])OC.[OH-:10]>>CC(C)[C:20]([OH:10])([O-:21])OC 10=20;20,21=21
[Li:20][O+]=C(C1CCCC1N(C(C)C)C(C)C)OC.[Br-:10]>>[Li-:20]([O+]=C(C1CCCC1N(C(C)C)C(C)C)OC)[Br:10] 10=20,
C1=C[CH:10]=[C:11](C=C1)N.[Br:20][Br:21]>>C1=C[CH:10]([C+:11](C=C1)N)[Br:20].[Br-:21] 10,11=10,20;20,21=21
[Li][Cu:11](C1=CC=CC=C1)[C:10]2=CC=CC=C2.CCN(CC)[C:22](=[O:23])[CH:21]=[CH2:20]>>[Li][Cu+:11]C1=CC=CC=C1.CCN(CC)[C:22](=[CH:21][CH2:20][C:10]1=CC=CC=C1)[O-:23] 10,11=10,20;22,23=23;20,21=21,22
[H:20][O:21]CC1=CC=C2C(=C1)OCO2.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C1OC2=CC=C(C=C2O1)C[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C3=C1C=CC=C3)COC(=O)NC(CC4=CC=C(C=C4)O)C(=O)NC.C1CC[NH:10]CC1.CN(C)C=O>>[H:20][NH+:10]1CCCCC1.CNC(=O)C(CC1=CC=C(C=C1)O)NC(=O)OC[C-:21]2C3=C(C=CC=C3)C4=C2C=CC=C4.CN(C)C=O 10=20;20,21=21
CC(CCO)CCO[P:10](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[Br:11].C(Br)(Br)Br>>CC(CCO)CCO[P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:11].C(Br)(Br)Br 10,11=11
C(C(=[O:10])O)Cl.O[Ca:20]O>>C(C(=[O+:10][Ca-:20](O)O)O)Cl 10=20,
C1=CC=C(C=C1)C2C3=C(C=CC=C3)[C:20](=[O:21])O2.C1=CC=[C:10](C=C1)[Mg:11]Br.C[O-].C1CCOC1.[Mg+]Br>>C1=CC=C(C=C1)C2C3=C(C=CC=C3)[C:20](O2)([C:10]4=CC=CC=C4)[O-:21].[Mg+:11]Br.C[O-].C1CCOC1.[Mg+]Br 10,11=10,20;20,21=21
C[S:10]C[CH2:20][OH2+:21]>>C[S+:10]1C[CH2:20]1.[OH2:21] 10=20;20,21=21
[OH-:10].[Mg+:20]Br.CCC=CC(C(=O)OC)NC(=O)OCC1=CC=CC=C1>>[OH:10][Mg:20]Br.CCC=CC(C(=O)OC)NC(=O)OCC1=CC=CC=C1 10=20,
[H:20][CH2:21][P+](C)(C)C.[H:10][Na:11]>>C[P+](C)(C)[CH2-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CC(C1=CC(=CC=C1)OC2CCCC2)[O-:10].[Mg+:20]Cl>>CC(C1=CC(=CC=C1)OC2CCCC2)[O:10][Mg:20]Cl 10=20,
CCOC(=O)C[C:20](=[O:21])C.[NH3:10].CCO.CCOC(=O)C(=CC1=C(ON=C1C)CCC2=CC(=CC=C2)Br)C(=O)C.O>>CCOC(=O)C[C:20](C)([NH3+:10])[O-:21].CCO.CCOC(=O)C(=CC1=C(ON=C1C)CCC2=CC(=CC=C2)Br)C(=O)C.O 10=20;20,21=21
[CH3:20][O:21][P+:22](O)(O)O.C[S-:10]>>C[S:10][CH3:20].O[P:22](=[O:21])(O)O 10=20;20,21=21,22
C[O:10][CH2:20][F:21]>>C[O+:10]=[CH2:20].[F-:21] 10=20;20,21=21
[B:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)OC(CC2(C(CCC3(C2CCC=C3COCC4=CC=C(C=C4)OC)C)C)C)C(=C)C=C.[OH-:10].O.[Na+]>>[B-:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)([OH:10])OC(CC2(C(CCC3(C2CCC=C3COCC4=CC=C(C=C4)OC)C)C)C)C(=C)C=C.O.[Na+] 10=20,
[Li][N:20]([N:10]=CC1=CN(C2=C1C=CC=C2)S(=O)(=O)C3=CC=C(C=C3)C)[S:21](=O)(=O)C4=CC=C(C=C4)C.[Li][OH+]C(C)(C)C>>[Li][N:20]=[N+:10]=CC1=CN(C2=C1C=CC=C2)S(=O)(=O)C3=CC=C(C=C3)C.CC1=CC=C(C=C1)[S-:21](=O)=O.[Li][OH+]C(C)(C)C 10=20;20,21=21
C1CC([C:20]1=[O:21])(OC2=CC=CC=C2)Br.[OH:10][Na]>>C1CC([C:20]1([O-:21])[OH+:10][Na])(OC2=CC=CC=C2)Br 10=20;20,21=21
CN(C)[Si:20](C)(C)C.CS(=O)(=O)[O-:10]>>CN(C)[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C 10=20,
C[CH:20]=[NH2+:21].[Cl-:10]>>C[CH:20]([NH2:21])[Cl:10] 10=20;20,21=21
C[N:10]1[CH:20](C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)[O:21]S(=O)(=O)C.CC[NH+](CC)CC.[Cl-]>>C[N+:10]1=[CH:20]C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC.CS(=O)(=O)[O-:21].CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
CC[C:22](=[O:23])[CH:21]=[CH2:20].O[O-:10]>>CC[C:22](=[CH:21][CH2:20][O:10]O)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C)[CH:22](C)[O:23]P(=O)(Cl)Cl.C1=CC=[N:10]C=C1>>C[CH:21]=[CH:22]C.[H:20][N+:10]1=CC=CC=C1.[O-:23]P(=O)(Cl)Cl 10=20;22,23=23;20,21=21,22
C(C#N)[CH:20]([N-:10]C(=N)N)[OH2+:21].C#N>>C([CH:20]=[N:10]C(=N)N)C#N.[OH2:21].C#N 10=20;20,21=21
CC1(CCCC2=C([C:20]1([OH:21])[O-:10])C=CC=C2)C(=O)C(C)(C)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5>>CC1(CCCC2=C([C:20]1=[O:10])C=CC=C2)C(=O)C(C)(C)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.[OH-:21] 10=20;20,21=21
C[CH+:20][CH2:10][Si-:11](C)(C)(C)[O+](C)C>>C[CH:20]=[CH2:10].C[O+](C)[Si:11](C)(C)C 10,11=10,20
[H:20][O:21]S(=O)(=O)O.C1C([O:10]1)CCO>>[H:20][O+:10]1CC1CCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
CO[C:13]1=[C:12]2C=CC=C[C:11]2=[CH:10]C=C1.O[S+:20](=O)=O>>CO[C+:13]1C=C[CH:10]([C:11]2=[C:12]1C=CC=C2)[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
[H:20][S+:21](CC)CC=C(C)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[S:21]CC=C(C)O 10=20;20,21=21
C[Si:20](C)(C)[OH2+].[Cl-:10]>>C[Si-:20](C)(C)([OH2+])[Cl:10] 10=20,
[H:20][N:21](C)C(=O)C.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CC(=O)[N-:21]C 10=20;20,21=21
[H:20][Br:21].CC1CCC([C:11](=[CH:10]1)C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CCC([C+:11]1C2=CC=CC=C2)C3=CC=CC=C3)C.[Br-:21] 10,11=10,20;20,21=21
CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)O[CH:20]=[OH+:21].C[OH:10].OS(=O)(=O)[O-]>>CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)O[CH:20]([OH:21])[OH+:10]C.OS(=O)(=O)[O-] 10=20;20,21=21
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(OCC#CC4=CC(=CC=C4)F)[Br:11].C(Br)(Br)Br>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)OCC#CC4=CC(=CC=C4)F.[Br-:11].C(Br)(Br)Br 10,11=11
[H:20][OH2+:21].CC1CCCCC1(N2CCCC2)[OH:10]>>[H:20][OH+:10]C1(CCCCC1C)N2CCCC2.[OH2:21] 10=20;20,21=21
